US06147216
2-[4-(4-Chloro-butyryl)-phenyl]-propionic acid, dimethylamide;
2-[4-(4-Chloro-butyryl)-phenyl]-propionic acid, pyrroldineamide;

reactant | 2-[4-(4-Chloro-butyryl)-phenyl]-propionic acid | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)C | C13H15ClO3
reactant | pyrroldineamide | N1(CCCC1)C(=O)N | C5H10N2O
product | 2-[4-(4-Chloro-butyryl)-phenyl]-propionic acid, dimethylamide | CN(C(C(C)C1=CC=C(C=C1)C(CCCCl)=O)=O)C | C15H20ClNO2
